US05817670
6-Amino-4-(3-chlorophenyl)-1-cyclopropyl-2(1H)-pyridone
Starting compounds: ethyl 3-(3-chlorophenyl)-4-cyano-3-butenoate and cyclopropylamine

reactant | ethyl 3-(3-chlorophenyl)-4-cyano-3-butenoate | ClC=1C=C(C=CC1)C(CC(=O)OCC)=CC#N | C13H12ClNO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 6-Amino-4-(3-chlorophenyl)-1-cyclopropyl-2(1H)-pyridone | NC1=CC(=CC(N1C1CC1)=O)C1=CC(=CC=C1)Cl | C14H13ClN2O
